US04596819
To a suspension of 2.1 g of [S-(E)]-5-amino-7-methyl-3-octenamide, monohydrochloride (prepared in Example 97) in 40 ml of N,N-dimethylformamide is added 1.32 of L-pyroglutamic acid, and 1.38 g of hydroxybenzotriazole hydrate. The mixture is cooled in ice and treated with 1.42 ml of triethylamine followed by a solution of 2.1 g of dicyclohexylcarbodiimide in 10 ml of N,N-dimethylformamide. The solution is kept at 0° for one hour, then at room temperature overnight. After filtering to remove dicyclohexylurea, the solvent is removed under high vacuum. The residue is taken up in chloroform and washed twice with water. On cooling the water extracts, hydroxybenzotriazole precipitates and is removed by filtration. The filtrate in lyophilized. The residue is chromatographed on silica gel, eluting with chloroform/methanol (85/15). Combining the appropriate fractions and recrystallizing the residue from acetonitrile gives 1.03 g of [S-(R*,R*-E)]-N-[5-amino-1-(2-methylpropyl)-5-oxo-2-pentenyl]-5-oxo-2-pyrrolidinecarboxyamide, mp 150°-152°, [α]D23 -39.1° (c 1.19, methanol).

reactant | L-pyroglutamic acid | N1[C@@H](CCC1=O)C(=O)O | C5H7NO3
reactant | hydroxybenzotriazole hydrate | 1.38 g | O.OC1=CC=CC=2NN=NC21
reactant | triethylamine | 1.42 ml | C(C)N(CC)CC | C6H15N
reactant | dicyclohexylcarbodiimide | 2.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-[5-amino-1-(2-methylpropyl)-5-oxo-2-pentenyl]-5-oxo-2-pyrrolidinecarboxyamide | NC(CC=CC(CC(C)C)NC(=O)CC1NC(CC1)=O)=O | C15H25N3O3
